US04021483
A mixture of 12 g of 2,3-xylidine, 60 ml of acetone and 30 g of type 5A sieves (alumino silicate) are placed in a flask and stirred overnight at room temperature. The mixture is filtered and the filtrate concentrated in vacuo to yield an oily residue. This residue is taken up in 100 ml of methanol, treated with 4.0 g of sodium borohydride and warmed to above 15° C. The mixture is made acidic, then basic, and finally extracted with ether to yield 11.4 g of N-isopropyl-2,3-xylidine which is verified by infra-red spectra and NMR.

reactant | 2,3-xylidine | 12 g | NC1=C(C(=CC=C1)C)C | C8H11N
reactant | acetone | 60 ml | CC(=O)C | C3H6O
reactant | sodium borohydride | 4.0 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-isopropyl-2,3-xylidine | 11.4 g | C(C)(C)NC1=C(C(=CC=C1)C)C | C11H17N
